US04205085
3-Hydroxypropyl 4-[15-(trifluoromethyl)pentadecylamino]benzoate
A mixture of 2.25 g. of methyl 4-[15-(trifluoromethyl)pentadecylamino]benzoate, 280 mg. of 1,3-propanediol and 1.37 g. of p-toluenesulfonic acid is heated at 180° C. for 18 hours and then is partitioned between ether and 3% aqueous sodium carbonate solution. The ether layer is separated, dried, and evaporated to yield the product as a white solid.

reactant | methyl 4-[15-(trifluoromethyl)pentadecylamino]benzoate | FC(CCCCCCCCCCCCCCCNC1=CC=C(C(=O)OC)C=C1)(F)F | C24H38F3NO2
reactant | 1,3-propanediol | C(CCO)O | C3H8O2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 3-Hydroxypropyl 4-[15-(trifluoromethyl)pentadecylamino]benzoate | FC(CCCCCCCCCCCCCCCNC1=CC=C(C(=O)OCCCO)C=C1)(F)F | C26H42F3NO3
